### PR TITLE
[Merged by Bors] - chore: tidy various files

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/GroupWithZero/Bounds.lean [hunk 1]
```diff
@@ -18,14 +18,12 @@ open Set
...
-      simp only [mem_upperBounds, mem_range, forall_exists_index, forall_apply_eq_imp_iff] at hb
-      exact le_trans (hf0 Classical.ofNonempty) (hb Classical.ofNonempty)
-  change BddAbove (range (g ∘ f))
-  simpa only [Set.range_comp] using hg'
+  rw [← Function.comp_def, Set.range_comp]
+  apply hg.map_bddAbove (by rintro x ⟨a, rfl⟩; exact hf0 a)
+  obtain ⟨b, hb⟩ := hf
+  use b, hb
+  simp only [mem_upperBounds, mem_range, forall_exists_index, forall_apply_eq_imp_iff] at hb
+  exact le_trans (hf0 Classical.ofNonempty) (hb Classical.ofNonempty)
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/GroupWithZero/Bounds.lean:26]: Hmm, I personally slightly prefer the older proof here for readability's sake, since it makes it clear what the proof idea is. But the `change` still feels suboptimal: do you think there's a third option which avoids the `change` but still keeps the `have` block?

File: Mathlib/NumberTheory/Cyclotomic/Basic.lean [hunk 2]
```diff
@@ -299,19 +299,18 @@ theorem finite_of_singleton [IsDomain B] [h : IsCyclotomicExtension {n} A B] :
...
-  · intro _ _ _ _ h
+  | @insert n S _ _ H =>
     haveI : IsCyclotomicExtension S A (adjoin A {b : B | ∃ n : ℕ+, n ∈ S ∧ b ^ (n : ℕ) = 1}) :=
       union_left _ (insert n S) _ _ (subset_insert n S)
     haveI := H A (adjoin A {b : B | ∃ n : ℕ+, n ∈ S ∧ b ^ (n : ℕ) = 1})
     have : Module.Finite (adjoin A {b : B | ∃ n : ℕ+, n ∈ S ∧ b ^ (n : ℕ) = 1}) B := by
-      rw [← union_singleton] at h
-      letI := @union_right S {n} A B _ _ _ h
+      rw [← union_singleton] at h₂
+      letI := union_right S {n} A B
```
Comment (b-mehta) [inline Mathlib/NumberTheory/Cyclotomic/Basic.lean:313]:
```suggestion
      let _ := union_right S {n} A B
```
perhaps; since you're changing this line anyway

**Review by b-mehta — COMMENTED** [review]
Nice! Only one comment about readability

bors d+

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp/Limits.lean [hunk 3]
```diff
@@ -41,14 +41,14 @@ instance (P : ProfiniteGrp) : SmallCategory (OpenNormalSubgroup P) :=
...
-
-/--The `MonoidHom` from a profinite group `P` to  the projective limit of its quotients by
+def toFiniteQuotientFunctor (P : ProfiniteGrp) : OpenNormalSubgroup P ⥤ FiniteGrp where
+  obj := fun H => FiniteGrp.of (P ⧸ H.toSubgroup)
+  map := fun fHK => FiniteGrp.ofHom (QuotientGroup.map _ _ (.id _) (leOfHom fHK))
+  map_id _ := ConcreteCategory.ext <| QuotientGroup.map_id _
+  map_comp f g := ConcreteCategory.ext <| (QuotientGroup.map_comp_map
+    _ _ _ (.id _) (.id _) (leOfHom f) (leOfHom g)).symm
+
+/--The `MonoidHom` from a profinite group `P` to the projective limit of its quotients by
```
Comment (grunweg) [inline Mathlib/Topology/Algebra/Category/ProfiniteGrp/Limits.lean:51]:
```suggestion
/-- The `MonoidHom` from a profinite group `P` to the projective limit of its quotients by

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer delegate

**Comment by grunweg** [comment]
Oops: I started reviewing and didn't see Bhavik's review. I guess you have two approvals now :-)

**Comment by b-mehta** [comment]
Fortunately we noticed disjoint things!

File: Mathlib/Algebra/Order/GroupWithZero/Bounds.lean [hunk 4]
```diff
@@ -18,14 +18,13 @@ open Set
...
     (hg : MonotoneOn g {x : β | 0 ≤ x}) : BddAbove (range (fun x => g (f x))) := by
-  have hg' : BddAbove (g '' (range f)) := by
-    apply hg.map_bddAbove (by rintro x ⟨a, rfl⟩; exact hf0 a)
-    · obtain ⟨b, hb⟩ := hf
-      use b, hb
-      simp only [mem_upperBounds, mem_range, forall_exists_index, forall_apply_eq_imp_iff] at hb
-      exact le_trans (hf0 Classical.ofNonempty) (hb Classical.ofNonempty)
-  change BddAbove (range (g ∘ f))
-  simpa only [Set.range_comp] using hg'
+  suffices hg' : BddAbove (g '' (range f)) by
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/GroupWithZero/Bounds.lean:21]:
```suggestion
  suffices hg' : BddAbove (g '' range f) by
```

File: Mathlib/Algebra/Order/GroupWithZero/Bounds.lean (hunk 1 above)
Comment (b-mehta) [reply Mathlib/Algebra/Order/GroupWithZero/Bounds.lean]: The `suffices` is all good!

**Comment by Ruben-VandeVelde** [comment]
bors merge
